US09193745B2
Synthesis of 4-phenyldibenzo[b,d]furan:
4-iododibenzo[b,d]furan (4 g, 13.60 mmol), phenylboronic acid (1.99 g, 16.32 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (0.447 g, 1.08 mmol), Pd2(dba)2 (0.250 g, 0.272 mmol), K3PO4 (10.1 g, 47.6 mmol), 150 mL toluene and 15 mL water were charged in a 250 mL flask. The reaction mixture was degassed by bubbling N2 for 30 minutes and then heated to reflux under N2 overnight. The reaction was cooled to room temperature and the crude product was purified by silica gel column to yield 3.3 g (99%), which was confirmed by GC-MS.

reactant | 4-iododibenzo[b,d]furan | 13.60 mmol, 4 g | IC1=CC=CC2=C1OC1=C2C=CC=C1 | C12H7IO
reactant | phenylboronic acid | 16.32 mmol, 1.99 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 1.08 mmol, 0.447 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 47.6 mmol, 10.1 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 15 mL | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-phenyldibenzo[b,d]furan | C1(=CC=CC=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C18H12O
